US07375248B2
1-[(3-Methylbutyl)oxy]-4-nitrobenzene
1-Bromo-3-methylbutane (7.07 g, 5.60 mL, 46.8 mmol) was added in one portion to a stirred suspension of 4-nitrophenol (5.00 g, 35.9 mmol) and potassium carbonate (5.46 g, 49.5 mmol) in dimethylformamide (50 mL) at room temperature under a nitrogen atmosphere. The resulting mixture was stirred at room temperature for 16 h then the volatiles were evaporated. The residue was partitioned between diethyl ether (50 mL) and water (50 mL) and the phases separated. The aqueous phase was extracted with ether (2×50 mL) then the organic extracts were combined and dried (magnesium sulfate). The solvent was evaporated and the residue chromatographed on silica gel (10% diethyl ether:cyclohexane) to give the title compound as a pale yellow oil (6.63 g, 88%). LC/MS: 3.69 min. 1H NMR (400 MHz; CDCl3): 0.95 (6H), 1.75 (2H), 1.85 (1H), 4.05 (2H), 6.95 (2H), 8.20 (2H).

reactant | 1-Bromo-3-methylbutane | 46.8 mmol, 5.60 mL, 7.07 g | BrCCC(C)C | C5H11Br
reactant | 4-nitrophenol | 35.9 mmol, 5.00 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | potassium carbonate | 49.5 mmol, 5.46 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-[(3-Methylbutyl)oxy]-4-nitrobenzene | 6.63 g, 88% | CC(CCOC1=CC=C(C=C1)[N+](=O)[O-])C | C11H15NO3
